US04230707
R. 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carbonitrile
A mixture of 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide (1.7 g., 0.007 mol), p-toluenesulfonyl chloride (2.0 g., 0.01 mol) and pyridine (1.7 ml, 0.021 mol) in dimethylformamide (30 ml) is heated at 100° C. under nitrogen for 40 minutes. The reaction mixture is cooled and diluted with water (15 ml). The resulting aqueous solution is stirred for one hour. The precipitate is filtered off, washed with water and sucked dry. Recrystallization from methanol gives the product (1.1 g.), mp 261°-263° C.

reactant | 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide | 0.007 mol, 1.7 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)N)CCS2 | C11H9N3O2S
reactant | p-toluenesulfonyl chloride | 0.01 mol, 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 0.021 mol, 1.7 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | 3,10-Dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carbonitrile | O=C1C2=C(N=C3N1C=C(C=C3)C#N)CCS2 | C11H7N3OS
